US07176242B2
Methyl 3-bromo-5-(hydroxymethyl)benzoate
To 3-bromo-5-(hydroxymethyl)benzoic acid (7.0 g, 30 mmol) in 20% methanol/benzene (100 mL) is added trimethylsilyldiazomethane (2M in hexanes), and the reaction is stirred 16 h. The reaction is concentrated under reduced pressure to afford the title compound. ESI MS m/z 244.0 [M+H]+.

reactant | 3-bromo-5-(hydroxymethyl)benzoic acid | 30 mmol, 7.0 g | BrC=1C=C(C(=O)O)C=C(C1)CO | C8H7BrO3
reactant | trimethylsilyldiazomethane | 2M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol benzene | 100 mL | CO.C1=CC=CC=C1
product | Methyl 3-bromo-5-(hydroxymethyl)benzoate | BrC=1C=C(C(=O)OC)C=C(C1)CO | C9H9BrO3
